US05968923
Methanesulphonyloxymethylcycloheptane
To a solution of cycloheptylmethanol (1.0 g, 7.81 mmol) in dichloromethane (20 ml) at 0° C. under nitrogen was added triethylamine (1.63 ml, 1.5 mol. equiv.) Methanesulphonyl chloride (0.73 ml, 1.2 mol. equiv.) was added, dropwise, and the reaction allowed to stir for two hours at room temperature. Water (50 ml) and dichloromethane (50 ml) were added. The organic phase was separated, washed with water (2×50 ml) and then dried over anhydrous magnesium sulphate. The solution was then filtered and the solvent removed under reduced pressure to give the title compound as an oil (1.66 g).

reactant | cycloheptylmethanol | 7.81 mmol, 1.0 g | C1(CCCCCC1)CO | C8H16O
reactant | triethylamine | 1.5 mol, 1.63 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulphonyl chloride | 1.2 mol, 0.73 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 50 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Methanesulphonyloxymethylcycloheptane | 1.66 g | CS(=O)(=O)OCC1CCCCCC1 | C9H18O3S
